US07534797B2
7-Chloro-2-phenyl-quinoline
To a solution of 4-chloro-2-nitrobenzaldehyde (55.7 g, 300 mmol) in ethanol (600 mL) and water (60 mL) was added iron powder (167 g, 3000 mmol) and conc. HCl (5 mL, 60 mmol), the resulting mixture was stirred with a mechanical stirrer under refluxing condition. 1 h later, LC-MS showed ca. 50% conversion, there was not much change after another one hour. Conc. HCl (2 mL) was added, LC-MS showed the reduction was complete after the mixture was refluxed for an additional 30 min. Then acetophenone (35 mL, 300 mmol) and KOH (50.5 g, 900 mmol) were added, the resulting mixture was further refluxed for 1 h, LC-MS showed the reaction was complete and the desired product was formed. The mixture was cooled to 40° C. and diluted with methylene chloride (1 L), then filtered through celite and the filtrate was concentrated. The residue was dissolved in methylene chloride (1 L) and washed with brine (2×300 mL), and dried over anhydrous sodium sulfate. The solvent was concentrated to ca. 200 mL and diluted with hexanes (500 mL), the light-yellow solid was collected by filtration as the first batch of desired product. The mother liquid was concentrated and then recrystallized with acetonitrile to give the second batch of the title compound as a light-yellow solid; LC-MS (ES, Pos.): 240/242 (3/1) [MH+]; 1H NMR (CDCl3, 400 MHz) δ 7.46-7.56 (m, 4H), 7.77 (d, J=8.7 Hz, 1H), 7.89 (d, J=8.6 Hz, 1H), 8.14-8.18 (m, 3H), 8.20 (d, J=8.6 Hz, 1H).

reactant | 4-chloro-2-nitrobenzaldehyde | 300 mmol, 55.7 g | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | HCl | 60 mmol, 5 mL | Cl | ClH
reactant | HCl | 2 mL | Cl | ClH
reactant | acetophenone | 300 mmol, 35 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | KOH | 900 mmol, 50.5 g | [OH-].[K+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | water | 60 mL | O | H2O
catalyst | iron | 3000 mmol, 167 g | [Fe] | Fe
product | 7-Chloro-2-phenyl-quinoline | ClC1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C15H10ClN
